US08207164B2
j) [5-(5-Amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of 4.89 g (12.69 mmol) [5-(5-azido-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester in 64 ml EtOH and 17 ml THF was treated with 1.1 g 10% Pd—C and stirred under an atmosphere of hydrogen until the starting material had been consumed. The mixture was diluted with DCM and filtered over celite. The product was purified by chromatography on silica gel (hexane/25-50% EtOAc) to give the desired product as colorless foam.

reactant | [5-(5-azido-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 12.69 mmol, 4.89 g | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)N=[N+]=[N-])F)=O | C16H18F3N5O3
solvent | EtOH | 64 ml | CCO | C2H6O
solvent | THF | 17 ml | C1CCOC1 | C4H8O
catalyst | Pd—C | 1.1 g | [Pd] | Pd
product | [5-(5-Amino-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)N)F)=O | C16H20F3N3O3
